US07671043B2
6E. Ethyl 5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyrazine-2-carboxylate
A mixture of 4-isobutylbenzoic acid (0.28 g, 1.59 mmol), 1-hydroxybenzotriazole (0.042 g, 0.31 mmol), N-[(1H-1,2,3-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate (0.51 g, 1.59 mmol), diisopropylethylamine (1.4 mL, 7.86 mmol) and dioxane (4 mL) was stirred at room temperature for 1 hour. Ethyl 5-[amino(hydroxyimino)methyl]pyrazine-2-carboxylate (0.33 g, 1.57 mmol) was added to the reaction mixture, stirred for 1.5 hours at room temperature and 6 hours at 100° C. The reaction mixture was cooled to room temperature, quenched with H2O (10 mL) and filtered. The precipitate was dissolved in EtOAc (10 mL), washed with 1N NaOH (3×10 mL) and brine (2×10 mL), dried (Na2SO4), filtered and concentrated in vacuo to yield the title compound (0.15 g, 27%) as a white solid.

reactant | 4-isobutylbenzoic acid | 1.59 mmol, 0.28 g | C(C(C)C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | 1-hydroxybenzotriazole | 0.31 mmol, 0.042 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-[(1H-1,2,3-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate | 1.59 mmol, 0.51 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 7.86 mmol, 1.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Ethyl 5-[amino(hydroxyimino)methyl]pyrazine-2-carboxylate | 1.57 mmol, 0.33 g | NC(C=1N=CC(=NC1)C(=O)OCC)=NO | C8H10N4O3
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | Ethyl 5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyrazine-2-carboxylate | 0.15 g, 27% | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1N=CC(=NC1)C(=O)OCC | C19H20N4O3
